US06172085B2
A solution of ethyl 4-[(diphenylmethyl)amino]-1-piperidinecarboxylate (42 g) and sodium hydroxide (50 g) in methanol (300 mL) was refluxed for 24 hours. This reaction mixture was diluted with water and extracted with chloroform. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure to give N-(diphenylmethyl)-4-piperidinamine. This product was converted to the dihydrochloride using 4N-HCl solution in ethanol and the precipitate was collected by filtration and dried to provide 31 g of the title compound. Yield 73%.

reactant | ethyl 4-[(diphenylmethyl)amino]-1-piperidinecarboxylate | 42 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)OCC | C21H26N2O2
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | water | O | H2O
product | N-(diphenylmethyl)-4-piperidinamine | C1(=CC=CC=C1)C(NC1CCNCC1)C1=CC=CC=C1 | C18H22N2
